US07935815B2
Synthesis of 3-(4-chlorophenylamino)propan-1-ol
4-Chloroaniline (4.39 g) and lithium tetrafluoroborate (3.32 g) were added to a solution of oxetane (1.00 g) in acetonitrile (20 mL) at room temperature, and the reaction solution was stirred at room temperature for 52 hours. A saturated sodium bicarbonate solution was added to the reaction solution, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 2.17 g of the title compound. The property values of the compound are as follows.

reactant | 4-Chloroaniline | 4.39 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | lithium tetrafluoroborate | 3.32 g | F[B-](F)(F)F.[Li+]
reactant | oxetane | 1.00 g | O1CCC1 | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(4-chlorophenylamino)propan-1-ol | 2.17 g | ClC1=CC=C(C=C1)NCCCO | C9H12ClNO
